US06037342
5-Chloro-6,7-dimethyl-2-(4-methyl-1-piperazinyl)benzoxazole
5-Chloro-6,7-dimethyl-2-mercaptobenzoxazole (200 mg) was dissolved in chloroform (20 ml), N-methylpiperazine (1.54 ml) was added dropwise to the solution and then the mixture was stirred with heating for 29 hours. After evaporation of the solvent, the thus obtained mixture was purified by a silica gel column chromatography (methylene chloride:methanol=20:1) to obtain the title compound 5-chloro-6,7-dimethyl-2-(4-methyl-1-piperazinyl)benzoxazole (260 mg).

reactant | 5-Chloro-6,7-dimethyl-2-mercaptobenzoxazole | 200 mg | ClC=1C(=C(C2=C(N=C(O2)S)C1)C)C | C9H8ClNOS
reactant | N-methylpiperazine | 1.54 ml | CN1CCNCC1 | C5H12N2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-6,7-dimethyl-2-(4-methyl-1-piperazinyl)benzoxazole | 260 mg | ClC=1C(=C(C2=C(N=C(O2)N2CCN(CC2)C)C1)C)C | C14H18ClN3O
